US06653438B1
The preparation was carried out analogously to K. Haga et al, Bull. Chem. Soc. Jpn., 1986, 59, 803-7: 3.10 g (10.4 mmol) of bis(4-bromophenyl)amine (J. Berthelot et al, Can. J. Chem., 1989, 67, 2061), 1.28 g of cyclohexane-1,4-dione (11.4 mmol) and 2.17g (11.4 mmol) of p-toluenesulfonic acid hydrate were heated in 50 ml of toluene on a water separator. After a reaction time of 12 hours, the solvent was removed and the product was purified by column chromatography (hexane/ethyl acetate 4:1). 3.82 g (9.46 mmol, 91%) of 4,4′-dibromotriphenylamine were obtained as a viscous oil.

reactant | bis(4-bromophenyl)amine | 10.4 mmol, 3.10 g | BrC1=CC=C(C=C1)NC1=CC=C(C=C1)Br | C12H9Br2N
reactant | cyclohexane-1,4-dione | 11.4 mmol, 1.28 g | C1(CCC(CC1)=O)=O | C6H8O2
reactant | p-toluenesulfonic acid hydrate | 11.4 mmol, 2.17g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | water | O | H2O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 4,4′-dibromotriphenylamine | 9.46 mmol, 3.82 g, 91% | C1=CC=C(C=C1)N(C2=CC=C(C=C2)Br)C3=CC=C(C=C3)Br | C18H13Br2N
